US04485053
Production of o-Chlorophenylsulfonyl isocyanate
In a flask equipped with a stirrer, reflux condenser and nitrogen bubbling apparatus, were mixed 5 g (0.03 mole) o-chlorobenzenesulfonamide, 50 ml (0.686 mole) thionyl chloride and 2 drops of pyridine. Then 3.9 g (0.03 mole) chlorocarbonylsulfenyl chloride was slowly added.

reactant | o-chlorobenzenesulfonamide | 0.03 mole, 5 g | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | thionyl chloride | 0.686 mole, 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | chlorocarbonylsulfenyl chloride | 0.03 mole, 3.9 g | ClC(=O)SCl | CCl2OS
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
product | o-Chlorophenylsulfonyl isocyanate | ClC1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
